US06090837
PREPARATION I: N-(4-Bromophenyl)-5-chloropentanamide
366 mmol (26.7 ml) of thionyl chloride are added dropwise to 183 mmol (25 g) of 5-chlorovaleric acid in 250 ml of toluene heated at reflux. The mixture is stirred at reflux until the evolution of gas has ceased and is then cooled. The solvent is evaporated off. The product obtained is then redissolved in 250 ml of dichloromethane and the temperature is lowered to 5° C. A solution of 183 mmol (31.5 g) of 4-bromoaniline in 100 ml of dichloromethane and 183 mmol (25.5 ml) of triethylamine are added in succession. The reaction mixture is stirred for 4 hours at 5° C. and then for 15 hours at room temperature. Hydrolysis, washing the organic phase with a 1N hydrochloric acid solution and evaporating off the solvents yields the expected product, which is used without being purified.

reactant | thionyl chloride | 366 mmol, 26.7 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 5-chlorovaleric acid | 183 mmol, 25 g | ClCCCCC(=O)O | C5H9ClO2
reactant | 4-bromoaniline | 183 mmol, 31.5 g | BrC1=CC=C(N)C=C1 | C6H6BrN
reactant | triethylamine | 183 mmol, 25.5 ml | C(C)N(CC)CC | C6H15N
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
solvent | dichloromethane | 250 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | N-(4-Bromophenyl)-5-chloropentanamide | BrC1=CC=C(C=C1)NC(CCCCCl)=O | C11H13BrClNO
